US05434165
4-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-3-nitroquinoline
In 60.0 ml of dimethylformamide (DMF) was dissolved 7.90 g (36.8 mmol) of 4-chloro-3-nitroquinoline, and 5.66 g (40.5 mmol) of (1-azabicyclo[3.3.0]octan-5-yl)methylamine was added to the solution under cooling with ice. After stirring at 15 to 20° C. for 20 hours, the reaction mixture was poured into 400 ml of ice-water and rendered basic with sodium carbonate. The thus formed precipitate was collected by filtration, washed with water, and dried in a desiccator under reduced pressure to obtain 10.6 g (yield: 92.2%) of the titled compound as a yellow powder.

reactant | 4-chloro-3-nitroquinoline | 36.8 mmol, 7.90 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | (1-azabicyclo[3.3.0]octan-5-yl)methylamine | 40.5 mmol, 5.66 g | N12CCCC2(CCC1)CN | C8H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 60.0 ml | CN(C=O)C | C3H7NO
product | 4-(1-Azabicyclo[3.3.0]octan-5-yl)methylamino-3-nitroquinoline | 10.6 g, yield: 92.2% | N12CCCC2(CCC1)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C17H20N4O2
